US06002043
87 g (0.6 mol) of 2-ethylhexanoic acid and 890 g of monochlorobenzene are introduced into the reactor and 607 g (6.14 mol) of phosgene are then added over about 30 minutes, while maintaining the temperature of the reaction medium at a maximum of 25° C. The set pressure is adjusted to 10.5 bar relative and the reaction medium is heated. The reaction is complete after one hour 30 minutes. The levels of residual acid and anhydride are zero and the level of 2-ethylhexanoyl chloride obtained is greater than 99.8 mol %.

reactant | 2-ethylhexanoic acid | 0.6 mol, 87 g | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | phosgene | 6.14 mol, 607 g | C(=O)(Cl)Cl | CCl2O
solvent | monochlorobenzene | 890 g | ClC1=CC=CC=C1 | C6H5Cl
product | 2-ethylhexanoyl chloride | C(C)C(C(=O)Cl)CCCC | C8H15ClO
